US06482986B1
a) 1-(1,1-Dimethoxyethyl)-4-(4,4-dimethylcyclohex-1-enyl)benzene
36.13 g of 1-[4-(4,4-dimethylcyclohex-1-enyl)phenyl]ethanone (compound VI.1) in 250 ml of methanol are stirred for 12 hours at room temperature in the presence of 0.5 g of para-toluenesulphonic acid (PTSA) and 13 ml of trimethyl-ortho-formate. The solvents are partially evaporated off under reduced pressure. A 50% solution of potassium hydroxide in methanol is added and the solvents are then evaporated off under reduced pressure. The residue obtained is taken up in diisopropyl ether and the solvent is then evaporated off under reduced pressure.

reactant | 1-[4-(4,4-dimethylcyclohex-1-enyl)phenyl]ethanone | 36.13 g | CC1(CC=C(CC1)C1=CC=C(C=C1)C(C)=O)C | C16H20O
reactant | para-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl-ortho-formate | 13 ml | COC(OC)OC | C4H10O3
solvent | methanol | 250 ml | CO | CH4O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 1-(1,1-Dimethoxyethyl)-4-(4,4-dimethylcyclohex-1-enyl)benzene | COC(C)(OC)C1=CC=C(C=C1)C1=CCC(CC1)(C)C | C18H26O2
